US07842696B2
DIPEA (143 mg, 0.193 mL, 1.11 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (prepared by the method described above) (157 mg, 0.44 mmol) in DMF (2 mL). HOBT (60 mg, 0.44 mmol) and EDCI (85 mg, 0.44 mmol) were then added at room temperature. After 2 minutes, 1H-Indole-3-carboxylic acid (60 mg, 0.37 mmol) was added and the resulting mixture was stirred at room temperature for 4 hrs. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to the residue. The residue was purified by preparative HPLC to afford 21.3 mg (12.35% yield) of 1H-Indole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 95.81%. 1H NMR (CDCl3): δ 9.1 (s, 1H), 8.1 (d, 1H), 7.9-7.5 (m, 4H), 7.4-7.1 (m, 4H), 4.4-4.2 (m, 2H), 4.1-3.8 (m, 2H), 3.8-3.4 (m, 4H), 3.4-3.1 (m, 3H).

reactant | DIPEA | 1.11 mmol, 0.193 mL, 143 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.44 mmol, 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.44 mmol, 85 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1H-Indole-3-carboxylic acid | 0.37 mmol, 60 mg | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1H-Indole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 21.3 mg, 12.35% yield | O=C(CNC(=O)C1=CNC2=CC=CC=C12)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H21F3N4O3
